US06013764
4-Methylmorpholine (2.53 g, 25 mmol) was added to a solution of H-Lys(Z)-Leu-Leu-OMe·HCl (13.93 g, 25 mmol) in DMF (85.0 g) at 10° C. HOBt (3.38 g, 25 mmol), Boc-Leu-Leu-OH (8.61 g, 25 mmol) and DIC (3.47 g, 27.5 mmol) were added over 30 min at 8-10° C. An additional portion of DMF (5.0 g) was added and the reaction was kept at 8-10° C. for 16 h. The reaction was stirred at 18-20° C. for 3 h, cooled to 5-10° C. and treated with H2O (130.0 g). A solid precipitated at 25° C. which was filtered, washed with H2O and recrystallized from MeOH and H2O to give Boc-Leu-Leu-Lys(Z)-Leu-Leu-OMe (SEQ. ID No. 2) (18.3 g, 86.4%).

reactant | 4-Methylmorpholine | 25 mmol, 2.53 g | CN1CCOCC1 | C5H11NO
reactant | H-Lys(Z)-Leu-Leu-OMe·HCl | 25 mmol, 13.93 g | N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)OC.Cl
reactant | HOBt | 25 mmol, 3.38 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Boc-Leu-Leu-OH | 25 mmol, 8.61 g | N([C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C | C17H32N2O5
reactant | DIC | 27.5 mmol, 3.47 g | CC(N=C=NC(C)C)C | C7H14N2
solvent | DMF | 85.0 g | CN(C)C=O | C3H7NO
solvent | DMF | 5.0 g | CN(C)C=O | C3H7NO
solvent | H2O | 130.0 g | O | H2O
product | Boc-Leu-Leu-Lys(Z)-Leu-Leu-OMe | 18.3 g, 86.4% | N([C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)OC)C(=O)OC(C)(C)C | C44H74N6O10
